US07799775B2
To a solution of 750 mg of methyl 2-amino-6-chlorobenzoate as synthesized in above Step 7-18-A in 10 ml of tetrahydrofuran, first 700 mg of pyridine and then 800 mg of 5-bromovaleryl chloride were added under cooling with ice. The solution was warmed to room temperature, stirred for an hour and the solvent was distilled off under reduced pressure. The residue was extracted with ethyl acetate, washed with saturated aqueous sodium hydrogencarbonate solution, 1N hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to provide 1.34 g (96%) of methyl 2-(5-bromopentanoylamino)-6-chlorobenzoate.

reactant | methyl 2-amino-6-chlorobenzoate | 750 mg | NC1=C(C(=O)OC)C(=CC=C1)Cl | C8H8ClNO2
reactant | pyridine | 700 mg | N1=CC=CC=C1 | C5H5N
reactant | 5-bromovaleryl chloride | 800 mg | BrCCCCC(=O)Cl | C5H8BrClO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | methyl 2-(5-bromopentanoylamino)-6-chlorobenzoate | 1.34 g, 96% | BrCCCCC(=O)NC1=C(C(=O)OC)C(=CC=C1)Cl | C13H15BrClNO3
